US04031093
1,6-Dihydro-6-oxo-2-(2-isopropoxyphenyl)pyrimidine-5-carboxylic acid
A solution of ethyl 1,6-dihydro-6-oxo-2-(2-isopropoxyphenyl)pyrimidine-5-carboxylate (3.02 g.) in 1N NaOH (25 ml.) was heated on a steam bath for 15 minutes. The solution was acidified with 1N HCl (26 ml.) to precipitate 2.7 g. of the title acid, m.p. 191°-193°. Recrystallization from methanol gave pale yellow crystals of the acid, m.p. 193°-195°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-isopropoxyphenyl)pyrimidine-5-carboxylate | 3.02 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OC(C)C)C(=O)OCC | C16H18N2O4
reactant | HCl | 1N, 26 ml | Cl | ClH
solvent | NaOH | 1N, 25 ml | [OH-].[Na+]
product | 1,6-Dihydro-6-oxo-2-(2-isopropoxyphenyl)pyrimidine-5-carboxylic acid | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OC(C)C)C(=O)O | C14H14N2O4
